US09315458B2
A) methyl 5-(4-fluoro-3-methoxybenzyl)-2-hydroxy-3,4-dimethylbenzoate
To a solution of methyl 2-hydroxy-3,4-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (0.50 g) in DME (12.0 mL) were added 4-(bromomethyl)-1-fluoro-2-methoxybenzene (0.39 g), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (0.07 g) and 2 mol/L aqueous sodium carbonate solution (1.63 mL), and the mixture was stirred overnight at 80° C. under argon atmosphere. The reaction mixture was allowed to be cooled to room temperature, and diluted with ethyl acetate, and the mixture was washed with saturated brine. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.45 g).

reactant | methyl 2-hydroxy-3,4-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 0.50 g | OC1=C(C(=O)OC)C=C(C(=C1C)C)B1OC(C(O1)(C)C)(C)C | C16H23BO5
reactant | 4-(bromomethyl)-1-fluoro-2-methoxybenzene | 0.39 g | BrCC1=CC(=C(C=C1)F)OC | C8H8BrFO
reactant | sodium carbonate | 2 mol/L, 1.63 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 12.0 mL | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | 0.07 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | methyl 5-(4-fluoro-3-methoxybenzyl)-2-hydroxy-3,4-dimethylbenzoate | 0.45 g | FC1=C(C=C(CC=2C(=C(C(=C(C(=O)OC)C2)O)C)C)C=C1)OC | C18H19FO4
